US05849769
Cis-2-(3-nitrophenyl)cyclopropanecarboxylic acid (355 mg, 1.7 mmole), described in Example 21, was dissolved in 50 ml ethanol and 20 mg of PtO2 was added. Hydrogenation at atmospheric pressure for 1 hr. followed by filtration and evaporation of the solvent afforded 288 mg of cis-2-(3-aminophenyl)cyclopropanecarboxylic acid. 177 mg (1 mmole) of cis-2-(3-aminophenyl)cyclopropanecarboxylic acid was dissolved in water (1 mL), t-BuOH (1 mL) and 2M NaOH (0.5 mL, 1 mmole). 250 μL (1.1 mmole) of di-tert-butyl dicarbonate was then added and the reaction mixture was stirred at room temperature overnight. The reaction mixture was poured into ice and water and acidified with dilute H2SO4 and extracted with dichloromethane affording 264 mg of pure BOC protected cis-2-(3-aminophenyl)-cyclopropanecarboxylic acid. This acid was transformed to BOC protected title compound according to the procedure in Example 7. Finally, deprotection with THF 1 and 6M HCl 1 gave the title product. Analysis: Calculated: C 59.5, H 5.0, N 18.5. Found: C 59.5, H 4.9, N 17.2. Mp: 177.5°-178.2° C. 1H-NMR (250 MHz, CDCl3) δ 1.00-1.07 (m, 1H), 1.23-1.37 (m, 1H), 2.24-2.33 (m, 1H), 3.15-3.25 (m, 1H), 3.65 (broad s, 2H), 6.59-6.70 (m, 4H), 6.77 (broad s, 1H), 7.11 (t, 1H), 7.45 (dd, 1H), 7.72 (s, 1H), 8.81 (broad s, 1H).

reactant | Cis-2-(3-nitrophenyl)cyclopropanecarboxylic acid | 1.7 mmole, 355 mg | [N+](=O)([O-])C=1C=C(C=CC1)[C@@H]1[C@@H](C1)C(=O)O | C10H9NO4
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | PtO2 | 20 mg | O=[Pt]=O
product | cis-2-(3-aminophenyl)cyclopropanecarboxylic acid | 288 mg | NC=1C=C(C=CC1)[C@@H]1[C@@H](C1)C(=O)O | C10H11NO2
